US08487109B2
1-Chloro-3-fluoro-5-phenylethynyl-benzene
This product was prepared from toluene-4-sulfonic acid 3-chloro-5-fluoro-phenyl ester and ethynyl-benzene following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane; yield (110 mg, 98%); 1H NMR δ (CDCl3): 7.51 (m, 2H), 7.36 (m, 3H), 7.03 (d, J=7.05 Hz, 2H), 6.79 (t, J=8.35 Hz, 1H); LCMS m/z: 230.

reactant | toluene-4-sulfonic acid 3-chloro-5-fluoro-phenyl ester | ClC=1C=C(C=C(C1)F)OS(=O)(=O)C1=CC=C(C=C1)C | C13H10ClFO3S
reactant | ethynyl-benzene | C(#C)C1=CC=CC=C1 | C8H6
solvent | heptane | CCCCCCC | C7H16
product | 1-Chloro-3-fluoro-5-phenylethynyl-benzene | ClC1=CC(=CC(=C1)C#CC1=CC=CC=C1)F | C14H8ClF
